US05633272
1-(3-Fluoro-4-methoxyphenyl)-2-[4-(methylthio)phenyl]-ethan-1-one was prepared by Friedel Crafts acylation of 2-fluoroanisole with 4-(methylthio)phenylacetyl chloride in the presence of aluminum chloride: 1H NMR (CDCl3 /300 MHz) δ 7.80-7.70 (m, 2H), 7.24-7.15 (m, 4H), 6.98 (t, J=8.26 Hz), 4.17 (s, 2H), 3.95 (s, 3H), 2.46 (s, 3H). 19F NMR (CDCl3 /282.2 MHz): -134.804 (m).

reactant | 2-fluoroanisole | FC1=C(C=CC=C1)OC | C7H7FO
reactant | 4-(methylthio)phenylacetyl chloride | CSC1=CC=C(C=C1)CC(=O)Cl | C9H9ClOS
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 1-(3-Fluoro-4-methoxyphenyl)-2-[4-(methylthio)phenyl]-ethan-1-one | FC=1C=C(C=CC1OC)C(CC1=CC=C(C=C1)SC)=O | C16H15FO2S
